US09388173B2
Step 4: 2-(2-(2-((3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropyl)amino)pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-morpholinoethanone
To a solution of 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-morpholinoethanone (60 mg, 0.268 mmol) in dioxane/H2O (10 mL) was added 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)amino)propan-2-ol (120.5 mg, 0.15 mmol), Pd(dppf)Cl2 (10 mg) and K2CO3 (72.86 mg, 0.15 mmol). The reaction mixture was heated at 100° C. under microwave conditions for 40 min. The mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water and the organic layer dried concentrated and the residue purified by pre-HPLC to give the desired compound (40 mg, Yield 29%). 1H NMR (400 MHz, MeOD) δ 9.01 (s, 1H), 8.07 (d, J=5.2 Hz, 1H), 7.61 (s, 1H), 7.57 (d, J=5.2 Hz, 1H), 7.50 (s, 1H), 7.09-7.02 (m, 4H), 6.72 (s, 1H), 5.31 (s, 1H), 4.13 (br.s, 1H), 3.77-3.40 (m, 12H), 2.91-2.85 (m, 4H), 2.74-2.62 (m, 2H). LCMS (m/z): 528.2 (M+1).

reactant | 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-morpholinoethanone | 0.268 mmol, 60 mg | ClC=1N=CC2=C(N1)N(C=C2)CC(=O)N2CCOCC2 | C12H13ClN4O2
reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)amino)propan-2-ol | 0.15 mmol, 120.5 mg | C1N(CCC2=CC=CC=C12)CC(CNC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C23H32BN3O3
reactant | K2CO3 | 0.15 mmol, 72.86 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 10 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(2-(2-((3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropyl)amino)pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-morpholinoethanone | 40 mg, Yield 29% | C1N(CCC2=CC=CC=C12)CC(CNC1=NC=CC(=C1)C=1N=CC2=C(N1)N(C=C2)CC(=O)N2CCOCC2)O | C29H33N7O3
